US07598249B2
4-Benzyl-piperazine-1-carboxylic acid phenylamide
The title compound was prepared from 1-benzylpiperazine and phenyl isocyanate. 1H NMR (400 MHz, CDCl3): 7.35-7.22 (m, 9H), 7.02-6.97 (m, 1H), 6.55 (br s, 1H), 3.56 (s, 2H), 3.48-3.45 (m, 4H), 2.45-2.41 (m, 4H).

reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 4-Benzyl-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C18H21N3O
